US07652007B2
e) Benzyl[1-{2-(4-chlorophenyl)-1-[(2,2-diethoxyethyl)isopropylcarbamoyl]-ethylcarbamoyl}-2-(2,4-dichlorobenzenesulfonylamino)ethyl]carbamate
1.94 ml (11.09 mmol) of DIEA and 1.5 g (6.1 mmol) of 2,4-dichlorophenylsulfonyl chloride are added to a solution of 3.2 g (5.54 mmol) of benzyl(2-amino-1-{2-(4-chlorophenyl)-1-[(2,2-diethoxyethyl)isopropylcarbamoyl]ethylcarbamoyl}ethyl)carbamate in 75 ml of DCM. The solution is stirred at room temperature overnight. The solution is then concentrated in vacuo, and the residue is purified by column chromatography on 100 g of SiO2 (eluent DCM followed by 20% EtOAc/DCM). 2.78 g of the desired product are obtained as a colorless foam. MW=784.19 (calculated, monoisotopic); measured value (M+Na)+=807.24

reactant | DIEA | 11.09 mmol, 1.94 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4-dichlorophenylsulfonyl chloride | 6.1 mmol, 1.5 g | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | benzyl(2-amino-1-{2-(4-chlorophenyl)-1-[(2,2-diethoxyethyl)isopropylcarbamoyl]ethylcarbamoyl}ethyl)carbamate | 5.54 mmol, 3.2 g | C(C1=CC=CC=C1)OC(NC(CN)C(NC(CC1=CC=C(C=C1)Cl)C(N(C(C)C)CC(OCC)OCC)=O)=O)=O | C29H41ClN4O6
solvent | DCM | 75 ml | C(Cl)Cl | CH2Cl2
product | Benzyl[1-{2-(4-chlorophenyl)-1-[(2,2-diethoxyethyl)isopropylcarbamoyl]-ethylcarbamoyl}-2-(2,4-dichlorobenzenesulfonylamino)ethyl]carbamate | 2.78 g | C(C1=CC=CC=C1)OC(NC(CNS(=O)(=O)C1=C(C=C(C=C1)Cl)Cl)C(NC(CC1=CC=C(C=C1)Cl)C(N(C(C)C)CC(OCC)OCC)=O)=O)=O | C35H43Cl3N4O8S
